US06756498B2
2-(3-Fluorophenyl)-6-trifluoromethylpyrazolo[1,5-a]pyridine
To a suspension of 1-(3-fluorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone oxime (10.0 g, 33.53 mmol) in DME (38 ml) was added MsCl (2.6 ml, 33.53 mmol) at 0° C. The suspension was stirred for 15-20 min and then Et3N (9.3 ml, 67.1 mmol) dissolved in DME (4 ml) was added dropwise at a rate to maintain the temperature ≦5° C. After the addition was complete, the suspension was warmed to room temperature and stirred for 1 hour. Additional Et3N (0.47 ml, 3.35 mmol) was added and the solution was stirred for 15 min at 30-35° C. The suspension was cooled to room temperature and filtered to remove the salts. The cake was washed with twice with DME (10 ml) and the filtrate was transferred to a clean reaction flask. To the filtrate was added FeCl2 (42 mg, 0.34 mmol) at room temperature. The solution was heated to 70° C. and stirred for 30 min. After cooling the solution to 40° C., H2O was added (80 ml). The resultant suspension was cooled to 0-5° C. and stirred for 30 min. The solid was isolated by filtration and partially dried via airflow. The solid was further dried under reduced pressure (20 in Hg Vacuum) at 50° C. to afford 7.91 g (84%) of the title compound as a beige solid.

reactant | 1-(3-fluorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone oxime | 33.53 mmol, 10.0 g | FC=1C=C(C=CC1)C(CC1=NC=C(C=C1)C(F)(F)F)=NO | C14H10F4N2O
reactant | MsCl | 33.53 mmol, 2.6 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 67.1 mmol, 9.3 ml | CCN(CC)CC | C6H15N
reactant | Et3N | 3.35 mmol, 0.47 ml | CCN(CC)CC | C6H15N
reactant | H2O | O | H2O
solvent | DME | 38 ml | COCCOC | C4H10O2
solvent | DME | 4 ml | COCCOC | C4H10O2
product | 2-(3-Fluorophenyl)-6-trifluoromethylpyrazolo[1,5-a]pyridine | 7.91 g, 84% | FC=1C=C(C=CC1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1 | C14H8F4N2
